US04118742
1-Dimethylaminosulfonyl-2-acetamido-6-hydroxybenzimidazole
1-Dimethylaminosulfonyl-2-acetamido-6-acetoxybenzimidazole, 170 mg. (0.50 mmole), was dissolved in 3.0 ml. of dimethylformamide and 2.0 ml. of pH 10.0 buffer was added. One-half milliter of three percent hydrogen peroxide was added to the reaction mixture. The reaction mixture was allowed to stir at room temperature for about 10 minutes. The mixture was poured into 50 ml. of 0.1 N hydrochloric acid. The acid mixture was extracted with chloroform. The extract was washed successively with water and saturated sodium chloride solution. The chloroform solution was dried and evaporated in vacuo to yield 102 mg. of 1-dimethylaminosulfonyl-2-acetamido-6-hydroxybenzimidazole, mp. 175°-176° C., after crystallization

reactant | 1-Dimethylaminosulfonyl-2-acetamido-6-acetoxybenzimidazole | CN(S(=O)(=O)N1C(=NC2=C1C=C(C=C2)OC(C)=O)NC(C)=O)C | C13H16N4O5S
reactant | hydrogen peroxide | OO | H2O2
reactant | hydrochloric acid | 0.1 N | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-Dimethylaminosulfonyl-2-acetamido-6-hydroxybenzimidazole | CN(S(=O)(=O)N1C(=NC2=C1C=C(C=C2)O)NC(C)=O)C | C11H14N4O4S
